US04971990
5-[2-[2-(5-Fluoro-2-methoxyphenoxy)-ethylamino]ethyl]-2-methoxybenzenesulfonamide
A suspension of 1.50 g of 5-(2-aminoethyl)-2-methoxybenzenesulfonamide hydrochloride and 0.8 ml of triethylamine in 50 ml of methanol was heated for 30 minutes at 75° C. To the reaction mixture was added 1.00 g of 2-(5-fluoro-2-methoxyphenoxy)acetaldehyde and the reaction mixture was heated for 10 minutes at 75° C. To the solution was added 0.45 g of sodium borohydride under ice cooling and the solution was stirred for 1 hr at room temperature. The reaction mixture was evaporated, acidified with 10% hydrochloric acid and washed with ether. The aqueous layer was made alkaline with potassium carbonate and extracted with ethyl acetate. The extract was washed with water, dried and evaporated. The residue was solidified with a mixture of methanol and ether and the precipitate was filtered to give 0.46 g of the desired compound as pale brown crystals which were recrystallized from N,N-dimethylformamide as pale yellow crystals, m.p. 201°-205° C.

reactant | 5-(2-aminoethyl)-2-methoxybenzenesulfonamide hydrochloride | 1.50 g | Cl.NCCC=1C=CC(=C(C1)S(=O)(=O)N)OC
reactant | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(5-fluoro-2-methoxyphenoxy)acetaldehyde | 1.00 g | FC=1C=CC(=C(OCC=O)C1)OC | C9H9FO3
reactant | sodium borohydride | 0.45 g | [BH4-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 5-[2-[2-(5-Fluoro-2-methoxyphenoxy)-ethylamino]ethyl]-2-methoxybenzenesulfonamide | 0.46 g | FC=1C=CC(=C(OCCNCCC=2C=CC(=C(C2)S(=O)(=O)N)OC)C1)OC | C18H23FN2O5S
